US05492896
(2S)-2-Amino-3-phenyl-propan-1-ol hydrochloride
A solution of 20.10 g (80.00 mmol) of (S)-2-(tert-butoxycarbonylamino-1-phenyl-propan-1-ol [J. Med. Chem. 33, 2707 (1990)] in 200 ml of a 4N solution of gaseous hydrogen chloride in anhydrous dioxane is stirred at room temperature for 30 minutes. Thereafter, 60 ml of toluene are added and the mixture is concentrated in vacuo. This operation is repeated twice more, and the residue is then titrated with a little ether, filtered off with suction and dried under a high vacuum over KOH. 14.14 g (94% of theory) of the title compound are obtained as colourless crystals.

reactant | tert-butoxycarbonylamino-1-phenyl-propan-1-ol | C(C)(C)(C)OC(=O)NC(CC)(O)C1=CC=CC=C1 | C14H21NO3
reactant | hydrogen chloride | Cl | ClH
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | dioxane | O1CCOCC1 | C4H8O2
product | (2S)-2-Amino-3-phenyl-propan-1-ol hydrochloride | Cl.N[C@H](CO)CC1=CC=CC=C1 | InChI=1S/C9H13NO.ClH/c10-9(7-11)6-8-4-2-1-3-5-8;/h1-5,9,11H,6-7,10H2;1H/t9-;/m0./s1
